US09227985B2
Step 2. (4S)-7-(3,5-Dimethylisoxazol-4-yl)-2-piperazin-1-yl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine trihydrochloride
tert-Butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]piperazine-1-carboxylate (45 mg, 0.087 mmol) was stirred in 4 N HCl in dioxanes (3 mL) and methanol (2 mL) for 30 min, at which time the solvent was evaporated to give the title compound (45 mg, 92%). LCMS calc. for C27H32N7O3 (M+H)+: m/z=417.2. found: 417.3.

reactant | tert-Butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]piperazine-1-carboxylate | 0.087 mmol, 45 mg | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)N2CCN(CC2)C(=O)OC(C)(C)C)C | C28H32N6O4
reactant | methanol | 2 mL | CO | CH4O
reactant | HCl | 4 N | Cl | ClH
product | (4S)-7-(3,5-Dimethylisoxazol-4-yl)-2-piperazin-1-yl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine trihydrochloride | 45 mg, 92% | Cl.Cl.Cl.CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)N2CCNCC2)C | InChI=1S/C23H24N6O2.3ClH/c1-14-20(15(2)31-27-14)16-6-7-18-21-22(16)30-13-19(17-5-3-4-8-25-17)29(21)23(26-18)28-11-9-24-10-12-28;;;/h3-8,19,24H,9-13H2,1-2H3;3*1H/t19-;;;/m1.../s1
